US06313150B1
Synthesis of (E)-α-methoxy-N-methyl-2-(α-methyl-4-chlorobenzylideneaminooxy)phenylacetamide (Compound No. 474)
A solution of methyl (E)-α-methoxy-2-(α-methyl-4-chlorobenzylideneaminooxy)phenylacetate (0.48 g, 1.3 mmol) and 40% monomethylamine-methanol solution (10 ml) was stirred in a sealed tube at 80° C. for 15 hours. The mixture was cooled to room temperature, and then the solvent was evaporated under reduced pressure. Water was added, the mixture was adjusted to pH 1 with 1N hydrochloric acid, extracted with methylene chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=3/2) to give the desired compound (E)-α-methoxy-N-methyl-2-(α-methyl-4-chlorobenzylideneaminooxy)phenylacetamide (0.41 g, 86%) as an oil.

reactant | methyl (E)-α-methoxy-2-(α-methyl-4-chlorobenzylideneaminooxy)phenylacetate | 1.3 mmol, 0.48 g | COC(C(=O)OC)C1=C(C=CC=C1)O/N=C(/C1=CC=C(C=C1)Cl)\C | C18H18ClNO4
reactant | monomethylamine methanol | 10 ml | CN.CO
product | (E)-α-methoxy-N-methyl-2-(α-methyl-4-chlorobenzylideneaminooxy)phenylacetamide | 0.41 g, 86% | COC(C(=O)NC)C1=C(C=CC=C1)O/N=C(/C1=CC=C(C=C1)Cl)\C | C18H19ClN2O3
